US06518423B1
8-Aminomethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine
To a solution of 1.3 g of N-(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)phthalimide in 20 ml of ethanol was added 5 ml of hydrazine monohydrate and the resulting mixture was heated to 60° C. for 10 minutes. After distilling off the solvent under reduced pressure, the residue was distributed into a 5% aqueous solution of sodium hydroxide and ethyl acetate. The organic layer was extracted and the extract was dried over potassium carbonate. After distilling off the solvent under reduced pressure, the obtained residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol/aqueous ammonia) to thereby give 890 mg of the title compound as a yellow oily substance.

reactant | N-(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)phthalimide | 1.3 g | COCN1C2=C(SC3=C1C=C(C=C3)CN3C(C=1C(C3=O)=CC=CC1)=O)N=CC=N2 | C21H16N4O3S
reactant | hydrazine monohydrate | 5 ml | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 8-Aminomethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 890 mg | NCC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C13H14N4OS
